US08461328B2
A mixture of racemic 4-(benzhydryl-amino)-1-(2,4-dimethoxy-benzyl)-piperidin-2-one (3.30 g, 7.80 mmol), 10% Pd on carbon (410 mg, 0.39 mmol) and 2M aqueous HCl (4 mL, 8.15 mmol) in ethanol (150 mL) was stirred at ambient temperature under an atmosphere of hydrogen for 23 hours. The reaction mixture was filtered through Celite® which was washed with ethanol, and the filtrate concentrated under vacuum. The resulting residue was purified by column chromatography on silica gel (gradient: 2M NH3 in methanol solution in DCM) to afford 1.53 g (75%) of 4-amino-1-(2,4-dimethoxy-benzyl)-piperidin-2-one as an oil. LCMS (Method I, ESI): RT=1.57 min, m+H=265.3; 1H NMR (400 MHz, CDCl3) δ: 7.15 (d, 1H), 6.46-6.42 (m, 2H), 4.56 (m, 2H), 3.80 (m, 6H), 3.33 (dt, 1H), 3.22 (m, 2H), 2.69 (ddd, 1H), 2.21 (dd, 1H), 1.94 (m, 1H), 1.59 (dtd, 1H).

reactant | racemic 4-(benzhydryl-amino)-1-(2,4-dimethoxy-benzyl)-piperidin-2-one | 7.80 mmol, 3.30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1CC(N(CC1)CC1=C(C=C(C=C1)OC)OC)=O | C27H30N2O3
reactant | HCl | 8.15 mmol, 2M, 4 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 0.39 mmol, 410 mg | [Pd] | Pd
product | 4-amino-1-(2,4-dimethoxy-benzyl)-piperidin-2-one | 1.53 g, 75% | NC1CC(N(CC1)CC1=C(C=C(C=C1)OC)OC)=O | C14H20N2O3
